Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I want to be happy but I can't"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo female ___ student with depression on SSRI with no previous
history of SA, presents with thoughts of killing herself by
getting into a car accident, self-admitted to ED after talking 
to
her therapist. 

Patient reports while driving to work today, she started having
thoughts of killing herself, started speeding to 100 mph, but
decided not to go through with the plan. After arriving at work,
she felt anxious about the thought and went to see her therapist
who urged her to go to the ED. Patient also reports cutting
herself on her upper arms and lower legs with a pocket knife 
last
night, followed by drinking 3 shots of whiskey and called a
friend over to watch her cry. She endorses feeling increasingly
depressed over the last week, feeling fatigued, increase in
sleep, decrease in attention and concentration. She have thought
about ways of killing herself multiple times, but did not 
specify
methods and denies history of searching online for methods.

Of note, she reports being raped in ___, by someone who 
she
was dating for 4 months. She said they always had protected sex
but that time he did not. She also reports an attempted rape at
age ___. According to her outpatient therapist ___,
patient is good at disguising her emotions, likes to minimize 
her
trauma history. 

Patient denies any other stressor. She reports school is going
well. She is majoring in ___, only need 2
classes to graduate, including a freshman chemistry class which
she is skipping. She is working part-time at an ___ working on interesting projects such as a retinal
scanner. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Denies
Current treaters and treatment: Therapist: ___ 
___
Psychiatrist: Dr. ___ (___)
Medication and ECT trials: Lexopro, Prozac, Zoloft
Self-injury: Cutting on arm and legs with pocket knife
Harm to others: No
Access to weapons: No

PAST MEDICAL HISTORY:
None

MEDICATIONS including vitamins, herbs, supplements, OTC:
Zoloft 50mg QD

ALLERGIES: 
Penicillin - hives
Sulfa drugs - unknown

 
Social History:
SUBSTANCE ABUSE HISTORY:

FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole)

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Depression on maternal side including mother, maternal aunts, 
and
grandmother. Grandmother may also have bipolar disorder. 
No history of psychiatric hospitalization or SA.

 
Physical Exam:
Physical Examination:
VS:  73, 128/91, 18, 100% RA
Height: 65 inches  Weight: 122.6 lbs

GEN: well nourished, well developed female, NAD
Skin: no ulcers, rashes, or cyanosis
HEENT: normocephalic, atraumatic, no scelera icterus, turbinates
normal,no pharyngeal erythema, moist mucous membranes
NECK: supple, no lymphadenopathy
CARDIO: RRR, normal S1/S2, no murmurs appreciated
LUNGS: clear to auscultation ___
ABD: positive BS, soft, NT, ND
EXT: warm and well perfused, no edema

Neuro:
Cranial Nerves
II,III: VFFTC, pupils 5 to 4 mm bilaterally to light
III,IV,VI: EOMI, no ptosis. Normal pursuits
V : sensation intact to LT
VII: no facial asymmetry with a normal forehead wrinkle, blink,
smile, and puffing of cheeks
VIII: hears finger rub bilaterally
IX,X: voice normal, palate elevates symmetrically
XI:  head turns and shoulder shrugs were full bilaterally
XII: tongue protrudes midline

MOTOR: Normal bulk and tone. No tremors. No pronator drift. Full
strength in all extremities.

SENSORY:  Diffusely intact to light touch

REFLEXES:  DTRs were ___ and symmetric at the 
triceps,
biceps, brachioradialis, quadriceps and gastrocnemius/soleus. 
The
toes were downgoing bilaterally.

CEREBELLAR: normal finger-nose-finger. There was no truncal
ataxia.

GAIT: Normal stance, narrow-based, with preserved ability to
tandem walk. 

Neuropsychiatric Examination:
  *Appearance: well developed female, appears stated age, 
sitting
in chair, good hygiene, wearing hospital gown, NAD.
  Behavior: Calm, cooperative, good eye contact, mild PMR.
  *Mood and Affect: "I feel better now that I am here",
dysphoric.
  *Thought process: linear, coherent, goal oriented, no LOA. 
  *Thought Content: continues to endorse SI, but no current 
plan.
Denies hallucinations, delusions, and homicidal ideation. 
  *Judgment and Insight: fair/fair
 
Cognition:
    Sensorium: awake and alert
    *Attention: intact MOYB
    *orientation: Full to person, place, time, city, state
    executive function: deferred
    *Memory: registration ___, recall ___ at 5 minutes
    *Fund of knowledge: intact to last 4 Presidents
    Calculations: intact, $2.25 = 9 quarters
    Abstraction: deferred 
    Visuospatial: not tested
    *Speech: normal rate, rhythm, tone, and volume
    *Language: ___, fluent 

 
Pertinent Results:
___ 03:00PM   WBC-8.7 RBC-4.77 HGB-14.9 HCT-44.3 MCV-93 
MCH-31.2 MCHC-33.7 RDW-13.1
___ 03:00PM   NEUTS-68.7 ___ MONOS-4.7 EOS-0.9 
BASOS-0.3
___ 03:00PM   PLT COUNT-294
___ 03:00PM   GLUCOSE-130* UREA N-12 CREAT-0.7 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-13
___ 03:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:20PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:20PM URINE  RBC-0 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-2
___ 09:20PM URINE  AMORPH-RARE
___ 09:20PM URINE  MUCOUS-MANY
 
Brief Hospital Course:
PSYCHIATRIC
#)On admission, patient was dysphoric but open and cooperative 
with treatment.  She described a relief from her suicidal 
feelings given the containment of the unit but continued to feel 
anxious and depressed.  A thoughtful discussion of alternative 
medication options were reviewed given her failure of 3 SSRIs. 
Between Wellbutrin and Remeron patient prefered Remeron for it's 
sedation effects and appetite stimulation as difficulty sleeping 
and eating were two of her primary concerns.  Patient was 
started on remeron 7.5mg qHS which she tolerated well and had 
desired effect of increased sleep.  
On discharge, mood was improved, MSE was pertinent for brigth 
affect, future orientation, and denial of SI.

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
#)No acute or chronic medical concerns

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was queit but appropriate on the unit.  She attended 
some groups and frequently had outside visitors.   The patient 
was very visible on the unit and frequently had conversations 
with her peers. She attended some groups. She never engaged in 
any unsafe behaviors. The pt ate all meals in the milieu, slept 
well, and cooperated with unit rules.

#) FAMILY CONTACTS
Patient gave consent for team to speak with a close friend 
instead of family members as she is not close with her family.  

#) COLLATERAL
We spoke with the patient's therapist and psychiatrist, who both 
agreed that the patient had been showing more signs of 
depression and had already been considering transition to 
non-SSRI antidepressent.  

LEGAL STATUS
The pt remained on a CV throughout the duration of this 
admission.

RISK ASSESSMENT:
This patient does not abuse substances although has misused them 
at times, is currently not suicidal, is feeling well and is 
animated, euthymic, and participatory in the milieu, all of 
which indicate a low immediate risk of harm.

Static risk factors include:
-history of depression, history of trauma/abuse, family history 
of mental illness. 
Modifiable risk factors include:
-hopelessness, active etoh misuse, acute major mood episode, 
active SI. We modified this risk by transition to Remeron and 
providing resources for sexual assault counseling. 
Protective factors include:
-Protective factors include current outpatient 
providers/treatment, strong connections to friend support, and 
skills in problem solving, conflict resolution and handling 
problems in a non-violent way. Current risk is low for 
intentional self-harm given that pt denies suicidal ideation, 
intent and plan, is accepting of treatment, is currently sober 
and is future oriented.

INFORMED CONSENT
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of Remeron, and risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Mirtazapine 7.5 mg PO HS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression

 
Discharge Condition:
Neurological:
    *station and gait: narrow based, steady gait
    *tone and strength: grossly intact
    cranial nerves: equal and intact
    abnormal movements: none noted
    
  *Appearance: well appearing East Asian female, appears stated
age, well groomed, glasses in place, dressed in casual clothes
  Behavior: laying in bed, rouses when interviewer approaches. 
Appropriate eye contact, relaxed body posture, no abnormal
movements
  *Mood and Affect: 'pretty alright' calm, relaxed, groggy, 
open,
cooperative, dampened range, appropriate to situation
  *Thought process : linear, logial, able to follow
  *Thought Content : denies suicidal thoughts today, does not
report HI, AH, VH
  *Judgment and Insight: good/fair

  Cognition:
    *Attention, *orientation, and executive function:alert,
attentive
    *Memory: grossly intact
    *Fund of knowledge: appropriate to conversation
    *Speech: normal rate, rhythm and tone
    *Language: fluent ___

 
Discharge Instructions:
Dear Ms. ___,
As you know, you were admitted to ___ for severe depression 
with feelings of hopelessness and thoughts of suicide. For this 
we started you on remeron and counseled you to avoid alcohol to 
avoid influences on your mood.

Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
Please continue all medications as directed.

Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.

Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.
We wish you the best of health,
Your ___ Mental Health Team

 
Followup Instructions:
___